data/oMe_Silver.jsonl
{"reaction_id": "NR-106_1-C(F)(F)F_2-c1cccc2ccccc12_3-c1ccccc1_4-C(C)C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(C(F)(F)F)(c1cccc2ccccc12)[N+](=O)[O-]","C(c1ccccc1)(C(C)C)=O","[OH-]"],"products_smiles": ["C(c1ccccc1)(C(C)C)(O)C(C(F)(F)F)(c1cccc2ccccc12)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(c1cccc2ccccc12)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(C)C)([O-])C(C(F)(F)F)(c1cccc2ccccc12)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(C)C)(O)C(C(F)(F)F)(c1cccc2ccccc12)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
{"reaction_id": "NR-322_1-c2ccccc2_2-C2CCOC2_3-C1CCCCC1_4-CCC","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(c2ccccc2)C2CCOC2","O=C(C1CCCCC1)CCC"],"products_smiles": ["C(=C(C1CCCCC1)CCC)(c2ccccc2)C2CCOC2","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](c2ccccc2)C2CCOC2","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(C1CCCCC1)(CCC)C1(c2ccccc2)C2CCOC2","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(C1CCCCC1)CCC)(c2ccccc2)C2CCOC2","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
{"reaction_id": "NR-142_1-C#CC_2-c1ccc(OC)cc1_3-C1C2CC3CC1CC(C2)C3","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(C#CC)(c1ccc(OC)cc1)(C1C2CC3CC1CC(C2)C3)"],"products_smiles": ["N(OC#CC)(c1ccc(OC)cc1)(C1C2CC3CC1CC(C2)C3)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(OC#CC)(c1ccc(OC)cc1)(C1C2CC3CC1CC(C2)C3)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the C#CC group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
